US07897597B2
4-Amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol (500 mg, 1.51 mmol), cesium carbonate (980 mg, 3.02 mmol), 3-(2-bromoethyl)indole (375 mg, 1.66 mmol), and DMF (10 mL) were combined and stirred at ambient temperature overnight followed by heating at 80° C. for 4 hours. The reaction mixture was cooled to ambient temperature and poured into 200 mL of water containing 20 g of sodium chloride. The resulting precipitate was filtered, dissolved in dichloromethane, and purified by flash column chromatography on silica gel, eluting with a gradient of 0-8% methanol in dichloromethane. Clean fractions were combined and concentrated. The solid was slurried in hot acetonitrile, filtered, and dried under reduced pressure to yield 305 mg of 1-(4-amino-2-ethoxymethyl-7-[2-(1H-indol-3-yl)ethoxy]-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol as an off-white solid, mp 220.0-222.0° C.

reactant | 4-Amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol | 1.51 mmol, 500 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)COCC)O | C17H22N4O3
reactant | cesium carbonate | 3.02 mmol, 980 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(2-bromoethyl)indole | 1.66 mmol, 375 mg | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 200 mL, 20 g | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(4-amino-2-ethoxymethyl-7-[2-(1H-indol-3-yl)ethoxy]-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | 305 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(O)C)COCC)OCCC2=CNC1=CC=CC=C21 | C27H31N5O3
